US05705499
a) 5,11-Dihydro-11-ethyl-5-methyl-8-phenylethynyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
A mixture of 5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.20 g, 0.53 mmol), phenylacetylene (0.06 mL, 0.55 mmol), bis(triphenylphosphine)palladium(II) chloride (25 mg, 0.04 mmol), and triethylamine (0.16 mL, 1.14 mmol) in 3 mL of N,N-dimethylformamide was heated at 95° C. under argon for 19 hours. Workup as described in Example 1h and purification by flash chromatography, eluting with ethyl acetate/dichloromethane, afforded 0.1 g of the title compound.

reactant | 5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.53 mmol, 0.20 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)I)=O)C)C=CC=N2 | C14H13IN4O
reactant | phenylacetylene | 0.55 mmol, 0.06 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 1.14 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.04 mmol, 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5,11-Dihydro-11-ethyl-5-methyl-8-phenylethynyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.1 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)C#CC3=CC=CC=C3)=O)C)C=CC=N2 | C22H18N4O
